US09450174B2
Composition measurement of γ-benzyl-L-glutamic acid/Nε-benzyloxycarbonyl-L-lysine copolymer.
The synthesized copolymer (10 mg) was dissolved in deuterated trifluoroacetic acid, and the 1H NMR was measured. As a result, a peak derived from the benzyl group of Nε-benzyloxycarbonyl-L-lysine and the benzyl group of γ-benzyl-L-glutamic acid was detected near 5.1 ppm, a peak derived from the proton at the α-position of γ-benzyl-L-glutamic acid was detected near 4.7 ppm, and a peak derived from the proton at the α-position of Nε-benzyloxycarbonyl-L-lysine was detected near 4.4 ppm. When the peak areas near 5.1 ppm, 4.7 ppm, 4.4 ppm are A, B, C, respectively, A/B=4.00, A/C=4.00, and B/C=1.00. Since both B and C represent an area of one proton, the composition of the copolymer is γ-benzyl-L-glutamic acid (50%)/Nε-benzyloxycarbonyl-L-lysine (50%).

reactant | Nε-benzyloxycarbonyl-L-lysine | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)O | C14H20N2O4
reactant | γ-benzyl-L-glutamic acid | C(C1=CC=CC=C1)C(C[C@H](N)C(=O)O)C(=O)O | C12H15NO4
product | γ-benzyl-L-glutamic acid Nε-benzyloxycarbonyl-L-lysine | C(C1=CC=CC=C1)C(C[C@H](N)C(=O)O)C(=O)O.C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)O | InChI=1S/C14H20N2O4.C12H15NO4/c15-12(13(17)18)8-4-5-9-16-14(19)20-10-11-6-2-1-3-7-11;13-10(12(16)17)7-9(11(14)15)6-8-4-2-1-3-5-8/h1-3,6-7,12H,4-5,8-10,15H2,(H,16,19)(H,17,18);1-5,9-10H,6-7,13H2,(H,14,15)(H,16,17)/t12-;9?,10-/m00/s1
